US04468402
0.5 Gram of 6-[4-(2-hydroxypropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril and 0.3 ml of triethylamine were dissolved in 10 ml of dichloromethane, the mixture was stirred at a room temperature, 0.15 g of acetyl chloride was added slowly thereto and further stirred at a room temperature for 1 hour. The reaction mixture was poured into a saturated sodium bicarbonate aqueous solution and extracted with chloroform. The organic layer was washed with water and a saturated sodium chloride aqueous solution and extracted with chloroform. The organic layer was washed with water and a saturated sodium chloride aqueous solution then dried with anhydrous sodium sulfate. The solvent was removed by distillation under a reduced pressure and the residue obtained was treated by means of a silica gel column chromatography, then the objective product was dissolved in methanol and converted into the hydrochloride by adding a concentrated hydrochloric acid. Recrystallized from water-acetone to obtain 0.22 g of 6-[4-(2-acetoxypropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril monohydrochloride. Melting point: 239°-241° C. (decomposed).

reactant | 6-[4-(2-hydroxypropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | OC(CN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C | C17H23N3O3
reactant | acetyl chloride | 0.15 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloride | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | 6-[4-(2-acetoxypropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril monohydrochloride | 0.22 g | Cl.C(C)(=O)OC(CN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C | InChI=1S/C19H25N3O4.ClH/c1-13(26-14(2)23)12-21-7-9-22(10-8-21)19(25)16-3-5-17-15(11-16)4-6-18(24)20-17;/h3,5,11,13H,4,6-10,12H2,1-2H3,(H,20,24);1H
